US04002647
250 ml. of a ca. 2-M ethereal methyl lithium solution are added dropwise to 39.5 g. of 3,5,5-trimethylhexanoic acid in 250 ml. of absolute diethyl ether at such a rate that a slight reflux is maintained. After completion of the addition, the mixture is stirred at room temperature for 1.5 hours, then cooled in an ice bath and 100 ml. of saturated aqueous ammonium chloride solution are cautiously added dropwise with stirring. The mixture is filtered through diatomaceous earth and the two phases of the filtrate are separated. The aqueous phase is back-extracted once with diethyl ether and the ether solutions are washed successively with ammonium chloride solution, water and saturated aqueous sodium chloride solution, dried over sodium sulfate and evaporated. By distillation there is obtained pure 4,6,6-trimethyl-2-heptanone of boiling point 64°-67° C./12 mmHg; nD20 = 1.4258.

reactant | methyl lithium | C[Li]
reactant | 3,5,5-trimethylhexanoic acid | CC(CC(=O)O)CC(C)(C)C | C9H18O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4,6,6-trimethyl-2-heptanone | CC(CC(C)=O)CC(C)(C)C | C10H20O
